US04058532
2-(Methylsulfinyl)-2'-(4-methoxyanilino)acetophenone--intermediate for Example 12 (Procedure 3)
To a 2 molar solution of dimsyl sodium in dimethylsulfoxide (365 ml.), cooled to 10° C., was added a solution of 65 g. of N-(4-methoxyphenyl)isatoic anhydride in 150 ml. dimethylsulfoxide with stirring and stirring was continued 30 minutes at room temperature and 1 hour at 50° C. The reaction mixture was poured onto 1200 g. of ice, 70 ml. of concentrated hydrochloric acid was added, and the mixture was extrated with methylene dichloride. The extract was washed with water, dried (MgSO4), and concentrated under reduced pressure to give, after recrystallization from benzenecyclohexane 45 g. 2-(methylsulfinyl)-2'-(4-methoxyanilino)acetophenone; m.p. 115°-116° C.

reactant | dimsyl sodium | [Na+].CS(=O)[CH2-]
reactant | N-(4-methoxyphenyl)isatoic anhydride | COC1=CC=C(C=C1)N1C=2C(C(=O)OC1=O)=CC=CC2 | C15H11NO4
reactant | hydrochloric acid | Cl | ClH
reactant | methylene dichloride | C(Cl)Cl | CH2Cl2
solvent | dimethylsulfoxide | 365 ml | CS(=O)C | C2H6OS
product | 2-(Methylsulfinyl)-2'-(4-methoxyanilino)acetophenone | CS(=O)CC(=O)C1=C(C=CC=C1)NC1=CC=C(C=C1)OC | C16H17NO3S
